US06432993B1
(13-2b) 5-{4-[1-Methyl-6-(pyridin-2-ylthio)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride
In a similar manner to that described in Example (2-2b), a reaction was carried out using 5-{4-[1-methyl-6-(pyridine-2-ylthio)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione (0.20 g) and 4N hydrogen chloride/ethyl acetate (50 ml) and the reaction mixture was purified to give the title compound (0.21 g).

reactant | 5-{4-[1-methyl-6-(pyridine-2-ylthio)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | 0.20 g | CN1C(=NC2=C1C=C(C=C2)SC2=NC=CC=C2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C24H20N4O3S2
reactant | hydrogen chloride ethyl acetate | 4N, 50 ml | Cl.C(C)(=O)OCC
product | 5-{4-[1-Methyl-6-(pyridin-2-ylthio)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride | 0.21 g | Cl.Cl.CN1C(=NC2=C1C=C(C=C2)SC2=NC=CC=C2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | InChI=1S/C24H20N4O3S2.2ClH/c1-28-19-13-17(32-22-4-2-3-11-25-22)9-10-18(19)26-21(28)14-31-16-7-5-15(6-8-16)12-20-23(29)27-24(30)33-20;;/h2-11,13,20H,12,14H2,1H3,(H,27,29,30);2*1H
